Test Harness for verifying buf2.spice

.include '../../sky130nm.lib'
.include 'sky130_vsdbuf2.spice'
X1 A Y VPWR VPB VGND sky130_vsdbuf2

* Supplies
VVGND VGND 0 0
VVPWR VPWR VGND DC 1.8
* Input Pulse
VA A VGND PULSE 0 1.8 0 1n 1n 50ns 100ns 

CLOAD Y VGND 0.05p

.control
tran 0.1n 100ns
run
plot a
plot y
.endc
